US04659362
3-Hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)-cyclohex-2-en-1-one (1.4 g) was dissolved in dimethylformamide (10 ml) at 60° C. and sodium hydride (0.25 g of a 60% dispersion in mineral oil) was added to the solution. The solution was heated to 110° C. and after 15 minutes propionic anhydride (0.7 ml) was added with stirring. The mixture was stirred at 120° C. for a period of 31/2 hours and then the solvent was removed under reduced pressure. The residue was partitioned between water (50 ml) and chloroform (2×50 ml) and the organic layer was dried over anhydrous magnesium sulphate and evaporated to give a brown oil. Purification by column chromatography over silica gel (60 g, eluant chloroform) gave 3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)-2-propionylcyclohex-2-en-1-one (0.9 g, 56%) as a pale yellow oil.

reactant | 3-Hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)-cyclohex-2-en-1-one | 1.4 g | OC1=CC(CC(C1)C=1C(=NC(=NC1OC)OC)OC)=O | C13H16N2O5
reactant | sodium hydride | [H-].[Na+]
reactant | propionic anhydride | 0.7 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-hydroxy-5-(2,4,6-trimethoxy-5-pyrimidyl)-2-propionylcyclohex-2-en-1-one | 0.9 g, 56% | OC1=C(C(CC(C1)C=1C(=NC(=NC1OC)OC)OC)=O)C(CC)=O | C16H20N2O6
